US03936454
6-Propylamino-9-veratrylpurine
A reaction mixture containing 5.14 g (16.8 mmol) of 6-chloro-9-veratrylpurine, 7.0 ml (84.9 mmol) of propylamine and 60 ml of EtOH was refluxed for 2.5 hrs. Evaporation of the reaction mixture gave a residual solid which was recrystallized from acetone to give the crude product; yield 4.78 g (87.0%) mp 117°-120°. Further recrystallizations of the crude white material from acetone gave the analytical material; mp 122°-125°.

reactant | 6-chloro-9-veratrylpurine | 16.8 mmol, 5.14 g | ClC1=C2N=CN(C2=NC=N1)CC1=CC(OC)=C(OC)C=C1 | C14H13ClN4O2
reactant | propylamine | 84.9 mmol, 7.0 ml | C(CC)N | C3H9N
solvent | EtOH | 60 ml | CCO | C2H6O
product | 6-Propylamino-9-veratrylpurine | C(CC)NC1=C2N=CN(C2=NC=N1)CC1=CC(OC)=C(OC)C=C1 | C17H21N5O2
